US08232278B2
Synthesis of 4-morpholino-6-(3,4-dichlorophenyl)-pyrido[3,2-d]pyrimidine
The reaction of 4-morpholino-6-chloro-pyrido[3,2-d]pyrimidine and 3,4-dichlorophenylboronic acid afforded the pure title compound (yield 97%) as a yellowish solid which was characterized by its mass spectrum as follows: MS (m/z): 361.2 ([M+H]+, 100).

reactant | 4-morpholino-6-chloro-pyrido[3,2-d]pyrimidine | O1CCN(CC1)C=1C2=C(N=CN1)C=CC(=N2)Cl | C11H11ClN4O
reactant | 3,4-dichlorophenylboronic acid | ClC=1C=C(C=CC1Cl)B(O)O | C6H5BCl2O2
product | 4-morpholino-6-(3,4-dichlorophenyl)-pyrido[3,2-d]pyrimidine | yield 97% | O1CCN(CC1)C=1C2=C(N=CN1)C=CC(=N2)C2=CC(=C(C=C2)Cl)Cl | C17H14Cl2N4O
